US03985895
Preparation of N,N-diethyl-N'-{ dibenzo[b,e]thiepin-11(6H)-ylidene}-1,3-propanediamine
1.65 G. of sodium in 60 ml. of absolute ethanol are treated dropwise with 11.4 g. of dibenzo[b,e]thiepin-11(6H)-one-oxime in 60 ml. of absolute ethanol. The mixture is stirred at 50° C. for 3 hours and then cooled to 5°-10° C. The mixture is then treated dropwise with 15.3 g. of 3-diethylamino-propyl chloride, stirred at 50° C. for 16 hours and subsequently evaporated under reduced pressure. The residue is dissolved in chloroform, washed with water, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue is purified by chromatography over aluminum oxide using chloroform for the elution. A by-product is first eluted and there is subsequently eluted the desired N,N-diethyl-N'-{dibenzo[b,e]thiepin-11(6H)-ylidene}-1,3-propanediamine-N'-oxide which is used directly in the process described in the first paragraph of this Example.

reactant | sodium | [Na] | Na
reactant | dibenzo[b,e]thiepin-11(6H)-one-oxime | C1=CC=CC=2SCC3=C(C(C21)=NO)C=CC=C3 | C14H11NOS
reactant | 3-diethylamino-propyl chloride | C(C)N(CCCCl)CC | C7H16ClN
solvent | ethanol | C(C)O | C2H6O
product | N,N-diethyl-N'-{ dibenzo[b,e]thiepin-11(6H)-ylidene}-1,3-propanediamine | C(C)N(CCCN=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2)CC | C21H26N2S
